US04433150
The operation is as in Example 14, but starting from 3.7 g of 2-(3-methyl-4-piperidyl)-1-(6-methoxy-4-quinolyl)-ethanone (trans isomer, racemic), prepared as indicated in Example 4, 3.7 g of 98% hydrazine hydrate and 3.7 g of sodium hydroxide in 37 ml of diethylene glycol. 1.7 g are obtained of 6-methoxy-4-[2-(3-methyl-4-piperidyl)-ethyl]-quinoline (trans isomer), the acid fumarate of which prepared by the action of fumaric acid in ethanol, melts at 224° C.

reactant | 2-(3-methyl-4-piperidyl)-1-(6-methoxy-4-quinolyl)-ethanone | 3.7 g | CC1CNCCC1CC(=O)C1=CC=NC2=CC=C(C=C12)OC | C18H22N2O2
reactant | hydrazine hydrate | 3.7 g | O.NN
reactant | sodium hydroxide | 3.7 g | [OH-].[Na+]
solvent | diethylene glycol | 37 ml | C(COCCO)O | C4H10O3
product | 6-methoxy-4-[2-(3-methyl-4-piperidyl)-ethyl]-quinoline | COC=1C=C2C(=CC=NC2=CC1)CCC1C(CNCC1)C | C18H24N2O
